US06410550B1
A) 1-(4-Acetyl-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-2,2,2-trifluoro-ethanone
1-(10-Aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-2,2,2trifluoro-ethanone (253 mg, 1.0 mmol) and AcCl (0.68 mL, 10 mmol) were dissolved in DCE (3 mL) and treated with aluminum chloride (AlCl3) (667 mg, 5.0 mmol). The resulting yellow mixture was stirred for 30 minutes then poured over ice and saturated aqueous NaHCO3 solution. After stirring 20 minutes the mixture was extracted with CH2Cl2 (3×30 mL). The organic layer was dried through a cotton plug then concentrated to a orange-yellow oil (255 mg, 86%).

reactant | 1-(10-Aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-2,2,2trifluoro-ethanone | 1.0 mmol, 253 mg | C12C=3C=CC=CC3C(CN(C1)C(C(F)(F)F)=O)C2 | C13H12F3NO
reactant | AcCl | 10 mmol, 0.68 mL | C(=O)(C)Cl | C2H3ClO
reactant | aluminum chloride | 5.0 mmol, 667 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCE | 3 mL | ClCCCl | C2H4Cl2
product | 1-(4-Acetyl-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-2,2,2-trifluoro-ethanone | C(C)(=O)C1=CC=2C3CN(CC(C2C=C1)C3)C(C(F)(F)F)=O | C15H14F3NO2
